US04482734
8 g of p-(4,8-dimethyl-1,3,7-nonatrienyl)acetophenone was added to a solution of 15 g of triethyl phosphonoacetate and 4.2 g of sodium ethylate in 50 ml of dimethylformaldehyde under stirring at room temperature. After stirring at 70° C. for 3 h, the reaction liquid was poured into ice/water, extracted with n-hexane, washed with water and dried over magnesium sulfate. After concentration followed by silica gel column chromatography, 6.1 g of intended ethyl 3-[4-(4,8-dimethyl-1,3,7-nonatrienyl)-phenyl]-2-butenoate was obtained as light yellow crystals.

reactant | p-(4,8-dimethyl-1,3,7-nonatrienyl)acetophenone | 8 g | CC(=CC=CC1=CC=C(C=C1)C(C)=O)CCC=C(C)C | C19H24O
reactant | sodium ethylate | 4.2 g | CC[O-].[Na+]
reactant | dimethylformaldehyde | 50 ml | CC(=O)C | C3H6O
product | ethyl 3-[4-(4,8-dimethyl-1,3,7-nonatrienyl)-phenyl]-2-butenoate | 6.1 g | CC(=CC=CC1=CC=C(C=C1)C(=CC(=O)OCC)C)CCC=C(C)C | C23H30O2
